US09107415B2
To a solution of 2-(4-bromo-2,6-dimethylphenyl)-3-methoxycyclopent-2-enone (5 g, 17 mmol) in anhydrous tetrahydrofuran (50 ml) under nitrogen atmosphere is added lithium bis(trimethylsilyl)amide (22.4 ml, 20 mmol, 0.9M solution in tetrahydrofuran) dropwise at −75°C. The resulting solution is stirred at this temperature for 40 minutes, then a second solution of pyridine-2-carboxaldehyde (2.18 g, 20 mmol) in anhydrous tetrahydrofuran (50 ml) is added over 20 minutes. The resulting solution is stirred at −75°C. for 2 hours, then allowed to warm to room temperature and stir for a further 2 hours. The reaction mixture is quenched with ice cold water (30 ml), extracted with ethyl acetate (3×100 ml), then dried over sodium sulfate, filtered and the filtrate is concentrated in vacuo to afford 2-(4-bromo-2,6-dimethylphenyl)-5-(hydroxypyridin-2-ylmethyl)-3-methoxycyclopent-2-enone. This material is used directly in the next step without further purification.

reactant | 2-(4-bromo-2,6-dimethylphenyl)-3-methoxycyclopent-2-enone | 17 mmol, 5 g | BrC1=CC(=C(C(=C1)C)C=1C(CCC1OC)=O)C | C14H15BrO2
reactant | lithium bis(trimethylsilyl)amide | 20 mmol, 0.9M, 22.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | pyridine-2-carboxaldehyde | 20 mmol, 2.18 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-bromo-2,6-dimethylphenyl)-5-(hydroxypyridin-2-ylmethyl)-3-methoxycyclopent-2-enone | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)C(C1=NC=CC=C1)O)=O)C | C20H20BrNO3
